US06589951B1
Synthesis of 6,7-Dimethoxy-1-phenyl-4-pyridin-4-ylmethyl-phthalazine (Compound 21)
In dry environment, ZnCl2 (379 mg, 2.78 mmoles) was dissolved in tetrahydrofuran (20 ml), then the temperature was brought to 0° C. and a 2M solution of phenyl lithium in hexane (1.4 ml, 2.8 mmoles) was dropped therein. The temperature was left to rise to room value and 1-bromo-6,7-dimethoxy-4-pyridin-4-ylmethyl-phthalazine (500 mg, 1.39 mmoles), obtained as described in example 65, palladium acetate (15 mg, 0.0695 mmole) and triphenylphosphine (36 mg, 0.139 mmole) were added and the whole was refluxed for 1.5 hour. The reaction was stopped with some drops of NaOH, then the mixture was dried and the residue taken up in water and CH2Cl2. The organic phase was dried to yield a residue which was chromatographed (eluent:methylene chloride, then methylene chloride/2% methanol, then methylene chloride/5% methanol). The eluate was dissolved in methylene chloride, treated with TONSIL® and filtered over celite. The mother liquor was dried yielding 172 mg of the title product.

reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | hexane | 2.8 mmoles, 1.4 ml | CCCCCC | C6H14
reactant | 1-bromo-6,7-dimethoxy-4-pyridin-4-ylmethyl-phthalazine | 1.39 mmoles, 500 mg | BrC1=NN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC=NC=C1 | C16H14BrN3O2
reactant | triphenylphosphine | 0.139 mmole, 36 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NaOH | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | ZnCl2 | 2.78 mmoles, 379 mg | [Cl-].[Cl-].[Zn+2]
catalyst | palladium acetate | 0.0695 mmole, 15 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6,7-Dimethoxy-1-phenyl-4-pyridin-4-ylmethyl-phthalazine | 172 mg | COC=1C=C2C(=NN=C(C2=CC1OC)C1=CC=CC=C1)CC1=CC=NC=C1 | C22H19N3O2
